US04159338
(B) 4-Phenyl-5-(3-pyridyl)-2-(1,1,2,2-tetrafluoroethylthio)-1H-imidazole
4-Phenyl-5-(3-pyridyl)-1H-2-imidazolethiol (2.0 g; 7.9 mmoles) was reacted with 5.0 g (50 mmoles) of tetrafluoroethylene and the crude product purified by chromatography on Silicar CCNo. 7 with chloroform to afford 800 mg of 4-phenyl 5-(3-pyridyl)-2-(1,1,2,2-tetrafluoroethylthio)-1H-imidazole, m.p. 153°-154° (recrystallized from toluene).

reactant | 4-Phenyl-5-(3-pyridyl)-1H-2-imidazolethiol | 7.9 mmoles, 2.0 g | C1(=CC=CC=C1)C=1N=C(NC1C=1C=NC=CC1)S | C14H11N3S
reactant | tetrafluoroethylene | 50 mmoles, 5.0 g | FC(=C(F)F)F | C2F4
product | 4-Phenyl-5-(3-pyridyl)-2-(1,1,2,2-tetrafluoroethylthio)-1H-imidazole | C1(=CC=CC=C1)C=1N=C(NC1C=1C=NC=CC1)SC(C(F)F)(F)F | C16H11F4N3S
